US07618990B2
To a solution of 1-(4-chloro-3-fluorophenyl)ethanone (3.4 g, 19.7 mmol), prepared in the previous step, in methylene chloride:methanol (1:3) was added tetrabutylammonium tribromide (9.5 g, 19.7 mmol) in portions. The reaction was monitored by TLC (3:1 hexane:ethyl acetate) until the starting material was consumed. The reaction solution was concentrated in vacuo and the residue was partitioned between diethyl ether and water. The layers were separated and the organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give 4.2 g of crude product. The crude product was purified on silica gel using 5% ethyl acetate:hexane to give 2-bromo-1-(4-chloro-3-fluoro-phenyl)-ethanone (3.4 g, 69%) as desired product, MS (ES) m/z 252 [M+H+].

reactant | 1-(4-chloro-3-fluorophenyl)ethanone | 19.7 mmol, 3.4 g | ClC1=C(C=C(C=C1)C(C)=O)F | C8H6ClFO
reactant | tetrabutylammonium tribromide | 19.7 mmol, 9.5 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 2-bromo-1-(4-chloro-3-fluoro-phenyl)-ethanone | 3.4 g, 69% | BrCC(=O)C1=CC(=C(C=C1)Cl)F | C8H5BrClFO
